US08252935B2
b) 2-[5-(1-Benzyl-6-trifluoromethyl-piperidin-2-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid
To a solution of 2-[5-(1-Benzyl-6-trifluoromethyl-piperidin-2-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester, compound 8a (38 mg, 0.062 mmol), in EtOH (3 mL) was added 2M KOH (310 μl, 0.62 mmol). The reaction was heated to 78° C. for 1.5 hours, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, followed by salt exchange with aqueous 1N HCl gave the product as a light yellow solid. (18.6 mg, 52%) 1H NMR (300 MHz, MeOD) δ ppm 0.81-0.88 (m, 6 H) 1.42 (dd, J=13.38, 6.59 Hz, 1 H) 1.55 (dd, J=13.56, 7.16 Hz, 2 H) 1.63-1.76 (m, 4 H) 1.82-1.97 (m, 2 H) 3.39-3.49 (m, 1 H) 3.61 (td, J=7.82, 2.83 Hz, 1 H) 3.68-3.77 (m, 3 H) 6.96-7.09 (m, 5 H) 7.29-7.37 (m, 2 H) 7.43 (s, 1 H) 7.58-7.66 (m, 4 H) Calcd for C32H33F6NO2 (M+H) 577.60, Found 578.4.

reactant | 2-[5-(1-Benzyl-6-trifluoromethyl-piperidin-2-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1N(C(CCC1)C(F)(F)F)CC1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C34H37F6NO2
reactant | KOH | 0.62 mmol, 2M, 310 μl | [OH-].[K+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | 2-[5-(1-Benzyl-6-trifluoromethyl-piperidin-2-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid | C(C1=CC=CC=C1)N1C(CCCC1C(F)(F)F)C=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CC(C)C | C32H33F6NO2
